US06784200B2
To a solution of N-(3-acetylphenyl)-N′-[3-[(1S,4R,6S)-6-[(4-fluorophenyl)methyl]-2-azabicyclo[2.2.2]oct-2-yl]propyl]urea and N-(3-acetylphenyl)-N′-[3-[(1R,4S,6R)-6-[(4-fluorophenyl)methyl]-2-azabicyclo[2.2.2]oct-2-yl]propyl]urea (8.5 mg, 0.019 mmol) in dichloromethane (10 mL) was added 1N hydrogen chloride in diethyl ether (21 μL, 0.021 mmol). The resulting suspension was stirred for 10 min and was then concentrated. The residue was dissolved in acetonitrile (1 mL) and water (7 mL) and lyopholized to afford N-(3-acetylphenyl)-N′-[3-[(1S,4R,6S)-6-[(4-fluorophenyl)methyl]-2-azabicyclo[2.2.2]oct-2-yl]propyl]urea hydrochloride and N-(3-acetylphenyl)-N′-[3-[(11R,4S,6R)-6-[(4-fluorophenyl)methyl]-2-azabicyclo[2.2.2]oct-2-yl]propyl]urea hydrochloride (9.0 mg, 100%) as an amorphous solid. MS (ESI) 438 (M-Cl).

reactant | N-(3-acetylphenyl)-N′-[3-[(1S,4R,6S)-6-[(4-fluorophenyl)methyl]-2-azabicyclo[2.2.2]oct-2-yl]propyl]urea | C(C)(=O)C=1C=C(C=CC1)NC(=O)NCCCN1[C@@H]2[C@@H](C[C@H](C1)CC2)CC2=CC=C(C=C2)F | C26H32FN3O2
reactant | N-(3-acetylphenyl)-N′-[3-[(1R,4S,6R)-6-[(4-fluorophenyl)methyl]-2-azabicyclo[2.2.2]oct-2-yl]propyl]urea | 0.019 mmol, 8.5 mg | C(C)(=O)C=1C=C(C=CC1)NC(=O)NCCCN1[C@H]2[C@H](C[C@@H](C1)CC2)CC2=CC=C(C=C2)F | C26H32FN3O2
reactant | hydrogen chloride | 1N | Cl | ClH
reactant | diethyl ether | 0.021 mmol, 21 μL | C(C)OCC | C4H10O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | N-(3-acetylphenyl)-N′-[3-[(1S,4R,6S)-6-[(4-fluorophenyl)methyl]-2-azabicyclo[2.2.2]oct-2-yl]propyl]urea hydrochloride | Cl.C(C)(=O)C=1C=C(C=CC1)NC(=O)NCCCN1[C@@H]2[C@@H](C[C@H](C1)CC2)CC2=CC=C(C=C2)F | InChI=1S/C26H32FN3O2.ClH/c1-18(31)21-4-2-5-24(16-21)29-26(32)28-12-3-13-30-17-20-8-11-25(30)22(15-20)14-19-6-9-23(27)10-7-19;/h2,4-7,9-10,16,20,22,25H,3,8,11-15,17H2,1H3,(H2,28,29,32);1H/t20-,22-,25+;/m1./s1
